US05955464
A mixture of 2-amino-5-fluorobenzoic acid (2.07 g) and formamide (4 ml) was heated at 160° C. for 2 hours, and for a further 2 hours at 180° C. The reaction mixture was allowed to cool and water was added. The reaction product was filtered off and washed with water and with diethyl ether to give 6-fluoro-3,4-dihydroquinazolin-4-one in 78% yield: m.p. 269-271° C.;

reactant | 2-amino-5-fluorobenzoic acid | 2.07 g | NC1=C(C(=O)O)C=C(C=C1)F | C7H6FNO2
reactant | formamide | 4 ml | C(=O)N | CH3NO
solvent | water | O | H2O
product | 6-fluoro-3,4-dihydroquinazolin-4-one | 78% yield | FC=1C=C2C(NC=NC2=CC1)=O | C8H5FN2O
